US07138414B2
b) N-[4-(5-oxo-4,5-dihydro-[1,2,4]oxadiazol-3-yl)-2-trifluoromethoxyphenyl]-acetamide
The mixture consisting of 130 mg of N-[4-(N-hydroxycarbamimidoyl)-2-trifluoromethoxyphenyl]acetamide, 2 ml of N-methylpyrrolidone, 0.55 ml of pyridine and 0.049 ml of ethyl chloroformate was stirred at 80° C. for 5 hours. After cooling, the mixture was diluted with water and the product was extracted with 20 ml of ethyl acetate. The organic phase was dried over sodium sulfate and evaporated at 40° C. under reduced pressure.

reactant | N-[4-(N-hydroxycarbamimidoyl)-2-trifluoromethoxyphenyl]acetamide | 130 mg | ONC(=N)C1=CC(=C(C=C1)NC(C)=O)OC(F)(F)F | C10H10F3N3O3
reactant | N-methylpyrrolidone | 2 ml | CN1C(CCC1)=O | C5H9NO
reactant | pyridine | 0.55 ml | N1=CC=CC=C1 | C5H5N
reactant | ethyl chloroformate | 0.049 ml | ClC(=O)OCC | C3H5ClO2
solvent | water | O | H2O
product | N-[4-(5-oxo-4,5-dihydro-[1,2,4]oxadiazol-3-yl)-2-trifluoromethoxyphenyl]-acetamide | O=C1NC(=NO1)C1=CC(=C(C=C1)NC(C)=O)OC(F)(F)F | C11H8F3N3O4
